US07253192B2
A] {4-[3-(4-Chloro-phenyl)-prop-2-ynylsulfanyl]-2-methyl-phenoxy}-acetic acid tert-butyl ester
In analogy to the procedure described in example 5B], (2-methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester (example 5A]) and 1-chloro-4-iodo-benzene gave the title compound as a light yellow oil.

reactant | (2-methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#C)C)=O | C16H20O3S
reactant | 1-chloro-4-iodo-benzene | ClC1=CC=C(C=C1)I | C6H4ClI
product | {4-[3-(4-Chloro-phenyl)-prop-2-ynylsulfanyl]-2-methyl-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#CC1=CC=C(C=C1)Cl)C)=O | C22H23ClO3S
